US05736539
1-tert-Butoxycarbonyl-2(S)-(3-methoxy-1-propyl)-4-(1-naphthoyl)-piperazine
The title compound was prepared according to the procedure described for Example 1, Step A except using 1-tert-butoxycarbonyl-2(S)-(3-methoxypropyl)piperazine (0.215 g, 0.832 mmol), naphthalene-1-carboxylic acid (0.143 g, 0.83 mmol), HOBT (0.128 g, 0.83 mmol), EDC.HCl (0.160 g, 0.83 mmol) in DMF (5 mL). The title compound was obtained as an oil (0.310 g).

reactant | 1-tert-butoxycarbonyl-2(S)-(3-methoxypropyl)piperazine | 0.832 mmol, 0.215 g | C(C)(C)(C)OC(=O)N1[C@H](CNCC1)CCCOC | C13H26N2O3
reactant | naphthalene-1-carboxylic acid | 0.83 mmol, 0.143 g | C1(=CC=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | HOBT | 0.83 mmol, 0.128 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 0.83 mmol, 0.160 g | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-tert-Butoxycarbonyl-2(S)-(3-methoxy-1-propyl)-4-(1-naphthoyl)-piperazine | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(=O)C1=CC=CC2=CC=CC=C12)CCCOC | C24H32N2O4
